US05693320
5-methacrylamidosalicylic acid (30 millimole, 6.7 g) was mixed with butylhydroxytoluene (20 mg), acetic anhydride (10.0 g), and acetic acid (15.0 g). After sealing the solution, its temperatures was raised to 60° C., and the solution was kept at 60° C. for 30 min while stirring. Then, a mixture (1.0 g) of concentrated sulfuric acid (1 part) with hydrochloric acid (10 parts) was added to the solution, followed by raising its temperature to 90° C., and kept at 90° C. for one hour to proceed the reaction. After the reaction was over, the solution was stood to cool to room temperature to give brown crystal. The crystal was filtrated, and recrystallized by a solution of 0.5% hydroquinone in methanol. Dried under a reduced pressure, 2-acetyl-5-methacrylamidosalicylic acid was obtained as pale reddish brown crystal having a needle shape: mp. 192.4° C., yield 2.54 g, 64.1%.

reactant | 5-methacrylamidosalicylic acid | 30 millimole, 6.7 g | C(C(=C)C)(=O)NC1=CC=C(C(C(=O)O)=C1)O | C11H11NO4
reactant | butylhydroxytoluene | 20 mg | CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C15H24O
reactant | acetic anhydride | 10.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 1.0 g | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 15.0 g | C(C)(=O)O | C2H4O2
product | 2-acetyl-5-methacrylamidosalicylic acid | C(C)(=O)C1(C(C(=O)O)C=C(C=C1)NC(C(=C)C)=O)O | C13H15NO5
